US03984467
1-(4-Chlorophenyl)-3-(propanimidoyl)urea
To a stirred, cooled mixture of 10.8 g. sodium methoxide in 100 ml. dry benzene was added 21.6 g. propionamidine hydrochloride in one portion and stirring was continued for twenty minutes. To this mixture at room temperature was added a solution of 30.6 g. of 4-chlorophenyl isocyanate in 100 ml. benzene dropwise during 15 minutes and stirring was continued for 18 hours. The mixture was filtered and the filtrate was evaporated to dryness under reduced pressure. A solution of the resulting residue in either was chilled and treated with ethereal hydrogen chloride until acidic. The solid was collected by filtration to give after recrystallization from acetonitrile 22 g. of the hydrochloride of 1-(4-chlorophenyl)-3-(propanimidoyl)urea; m.p. 191°-192°C.

reactant | sodium methoxide | C[O-].[Na+]
reactant | propionamidine hydrochloride | Cl.C(CC)(=N)N
reactant | 4-chlorophenyl isocyanate | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-(4-Chlorophenyl)-3-(propanimidoyl)urea | ClC1=CC=C(C=C1)NC(=O)NC(CC)=N | C10H12ClN3O
